US06294558B1
1-(4-Bromophenyl)-2-(3-fluorophenyl)ethanone. (step 1)
The title compound was prepared according to the procedure of step 1 in the Example 169 using 3-fluorobenzyl bromide and 4-bromobenzoyl chloride.

reactant | 3-fluorobenzyl bromide | FC=1C=C(CBr)C=CC1 | C7H6BrF
reactant | 4-bromobenzoyl chloride | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
product | 1-(4-Bromophenyl)-2-(3-fluorophenyl)ethanone | BrC1=CC=C(C=C1)C(CC1=CC(=CC=C1)F)=O | C14H10BrFO
